2197-05-23 09:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo women with h/o CAD with stent placement in [**3-13**].  AFib not on
   coumadin.  Lung nodules with ?lung CA,  Was at OSH pysch [**Hospital1 **].  Had PNA
   and started on avalox.  HOTN and hypoxemia transferred to [**Hospital1 1**].  Got
   cefepime and vanco.  Got lasix and medrol. Dilt for RAF.
   24 Hour Events:
 BLOOD CULTURED - At [**2197-5-23**] 12:14 AM
   x2 right and left  piv
   t
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   lopressor
   asa
   folate
   protonix
   plavix
   lipitor
   celexa
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-23**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 99 (80 - 106) bpm
   BP: 125/69(82) {88/34(53) - 125/94(98)} mmHg
   RR: 26 (18 - 31) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
           677 mL
   PO:
           120 mL
   TF:
   IVF:
   207 mL
   Blood products:
   350 mL
   Total out:
                                                                      0 mL
                                                                    110 mL
   Urine:
   110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: moderate distres
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l rales)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): to self only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   287 K/uL
   67 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   69 mg/dL
   97 mEq/L
   136 mEq/L
   27.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2197-5-22**]  11:32 PM
                             [**2197-5-23**]  06:00 AM
   WBC
   18.3
   16.0
   Hct
   25.0
   27.0
   Plt
   319
   287
   Cr
   3.2
   3.3
   TropT
   0.87
   1.39
   Glucose
   200
   67
   Other labs: PT / PTT / INR:13.9/29.9/1.2, CK / CKMB /
   Troponin-T:489/22/1.39, ALT / AST:52/65, Alk Phos / T Bili:173/0.6,
   Differential-Neuts:92.0 %, Lymph:4.7 %, Mono:3.2 %, Eos:0.0 %, LDH:344
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: BNP>20K
   Imaging: CXR:  RLL infiltrate, PVC, b/l effusions
   Assessment and Plan
   Respiratory distress:  Pulmonary edema/CHF exacerbation.    Will give
   lasix, and start beta-blocker to control HR.
   CAD:  NSTEMI on heparin, continue lopressor 100mg tid.
   Acute on chronic renal failure:  increased creatinine from baseline,
   may be related to CHF
   HOTN:  was HOTNsive in setting of diltizem.  Now improved
   delirium/agitation:  Haldol as needed for agitation
   PNA:  getting vanco/zosyn for RLL infiltrate with increased WBC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-5-22**] 10:25 PM
   18 Gauge - [**2197-5-23**] 05:11 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-05-24 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was written for Mirtazapine in hopes that sleep would help in
   reducing delerium
   - Slept well overnight
   - Heparin gtt d/c
d as elevated CE thought to be related to demand
   ischemia
   - Vancomycin random level with 4/22 AM labs was 11.3 and patient was
   dosed with 1 gram of vancomycin
   - Patient was diuresed with furosemide 40 mg IV x2 with good UOP
   overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2197-5-23**] 09:23 AM
   Heparin Sodium (Prophylaxis) - [**2197-5-24**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-24**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 88 (79 - 110) bpm
   BP: 114/36(57) {95/33(52) - 141/102(109)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,756 mL
                                                                     69 mL
   PO:
                                                                    790 mL
             TF:
   IVF:
                                                                    616 mL
                                                                     69 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,670 mL
                                                                  1,160 mL
   Urine:
                                                                  2,670 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -914 mL
                                                                 -1,091 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral, Wheezes : diffuse)
   Abdomen: Soft, non tender
   Extremities: no edema
   Skin:  Warm, dry
   Neurologic: Alert and interactive, MAE x4
   Labs / Radiology
   267 K/uL
   9.5 g/dL
   133 mg/dL
   3.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   74 mg/dL
   97 mEq/L
   139 mEq/L
   28.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2197-5-22**]  11:32 PM
                             [**2197-5-23**]  06:00 AM
                             [**2197-5-23**]  03:02 PM
                             [**2197-5-24**]  03:06 AM
   WBC
   18.3
   16.0
   12.5
   Hct
   25.0
   27.0
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 5511**]
   Cr
   3.2
   3.3
   3.3
   3.2
   TropT
   0.87
   1.39
   1.07
   1.09
   Glucose
   200
   67
   171
   133
   Other labs: PT / PTT / INR:14.2/24.3/1.2, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:52/65, Alk Phos / T Bili:173/0.6,
   Differential-Neuts:88.0 %, Lymph:8.0 %, Mono:3.8 %, Eos:0.1 %, LDH:344
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 80 yo F with CAD s/p CABG and recent DES x2 in [**3-/2197**], CRI (baseline
   Cr 2.1), afib not on coumadin, multiple lung lesions on CT chest
   concerning for lung cancer, DM2, and demetia who was transferred from
   OSH for respiratory distress requiring NRB.
   .
   1.  Hypoxic respiratory distress:  This is likely multifactorial
   including healthcare associated pneumonia given leukocytosis (though in
   setting of steroids) and cough and acute dCHF exacerabation (CXR c/w
   pulm edema, BNP > 70,000, esp. given IVF hydration for elevated Cr and
   low Na at OSH and 2-3 units of PRBCs, episodes of afib with RVR).  Pt
   also has sig. wheezing on exam but not hypercarbic on ABG.  Although
   does not carry a diagnosis of COPD, she has a sig. smoking history.
   Also concern for PE given lack of activity and question of cancer
   (lung, colon), however bilateral LENIs negative. Diuresis initially
   held secondary to hypotension in setting of patient receiving diltiazem
   20 mg IV on the floor for a fib with RVR. On [**5-23**] given lasix 40 mg IV
   x 2 with 1 L net negative overnight.
   - Supplemental O2 for goal O2 sats 88-94%
   - Vanc/zosyn x7 days to cover healthcare associated pneumonia
   - Continue lasix
   - Echo showed preserved global systolic function with pulmonary artery
   systolic hypertension
   - Standing nebulizers q4 for COPD exacerbation, start IV steroids if
   becomes more hypercarbic (will avoid clouding MS for now), also would
   consider decreasing BB in favor for CCB (responsive) but likely needs
   it given extensive cardiac history
   .
   2.  Elevated cardiac enzymes:  NSTEMI v. demand ischemic from afib with
   RVR/acute CHF exacerbation.  Trending up at OSH (TropT<0.010, CK 134,
   CKMB 4.4, RI 3.3-->TropT 0.032) and here as well.  No acute ischemic
   changes on EKG.  Denies any current chest pain.  Pt had a cardiac cath
   in [**2197-3-13**] resulting in placement of a drug-eluting stent in the
   mid-LCX and proximal OM.  No evidence of re-instent thrombosis on EKG.
   Heparin gtt d/c
d [**5-23**] as elevated CE likely secondary to demand
   ischemia. Troponin peaked at 1.39 on [**5-23**], now trending down to 1.09.
   - full dose ASA, cont. plavix
   - cont. statin, BB
   .
   3.  Acute MS changes:  Likely secondary to hypoxia, infection,
   hyponatremia, baseline dementia, and poor sleep.  Not hypercarbic on
   ABG.  Pt also has afib off anticoagulation.  No gross neurologic
   deficits on exam.  Less concern for possible metastatic cancer to brain
   given no acute intracranial abnormality on CT head from [**4-28**] though
   there was no follow-up MRI.  CT head did note areas of encephalomalacia
   consistent with prior infarct, which may give patient poor reserve with
   infection, electrolyte imbalances. Given home remeron and slept well
   overnight.
   - supplemental O2
   - BCx and UCx NTD
   - Continue remeron
   - MRI when stable
   - haldol prn
   .
   4.  ARF:  Baseline Cr is 2.1.  OSH admission Cr was at 2.0.  Most
   likely prerenal given concomitent hyponatremia that responded to IVFs
   and component of poor forward flow for CHF exacerbation.  [**Month (only) 11**] also be
   ATN as was hypotensive, or AIN given abx exposure.
   - check urine lytes, sed, eos given abx at OSH
   - transfuse 1 unit for volume
   - renally dose meds, avoid nephrotoxins
   .
   5.  Anemia:  HCT at OSH has been trending down 31.1->28.5->22.3.  Pt
   received 2-3 units of PRBCs, OSH records unclear.  [**Name2 (NI) 83**] obvious bleeding
   at admission.  Given 1 unit PRBCs for volume replacement [**5-23**]. Crit
   28.1 today.
   - guaiac stools
   - typed and crossed
   - transfuse 1 unit
   .
   6.  Hyponatremia:  Na has responded to IVFs at OSH.  Likely secondary
   to volume depletion.  No overt volume overload outside of pulm
   edema.
   - Na 139 today.
   .
   7.  HTN/relative hypotension:  On admission to ICU relatively
   hypotensive in setting of diltiazem for a fib. Early sepsis/cardiogenic
   less likely.  BPs now stable.
   - cont. metoprolol for afib
   - hold outpatient amlodipine, hydralazine, imdur
   .
   8.  H/o Strep bovis bacteremia: Bx of polyp showed adenoma, still some
   concern re: colon ca.
   - Outpt f/u in 1 month.
   .
   9.  H/o spiculated lung lesion: Will need bronch bx (once on plavix for
   3 mos) and PET scan as outpt.
   .
   # FEN:  NPO for now.
   # PPX: Heparin gtt, PPI, bowel regimen.
   # Code: FULL
   # HCP: Daughter [**Name (NI) 747**] [**Last Name (NamePattern1) 5494**]
   ICU Care
   Nutrition: Diabetic/heart healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-5-22**] 10:25 PM
   18 Gauge - [**2197-5-23**] 05:11 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 747**] [**Last Name (NamePattern1) 5494**]
   Code status: Full code
   Disposition:

2197-05-24 10:44:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo women with CAD, CHF, admitted with respiratory distress, NSTEMI,
   pulmonary edema.  Improved with diuresis and delirium improved with
   remeron and haldol.l
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-23**] 08:00 PM
   Vancomycin - [**2197-5-24**] 08:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-5-24**] 08:26 AM
   Pantoprazole (Protonix) - [**2197-5-24**] 08:27 AM
   Other medications:
   lopressor
   zosyn
   remeron
   hep s/q
   folate
   protonix
   plavix
   lipitor
   celexa
   SSI
   K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-24**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 102 (79 - 113) bpm
   BP: 123/64(139) {104/33(52) - 141/102(139)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 89%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,756 mL
                                                                    460 mL
   PO:
                                                                    790 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    616 mL
                                                                    310 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,670 mL
                                                                  1,660 mL
   Urine:
                                                                  2,670 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -914 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 89%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice
   Labs / Radiology
   9.5 g/dL
   267 K/uL
   133 mg/dL
   3.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   74 mg/dL
   97 mEq/L
   139 mEq/L
   28.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2197-5-22**]  11:32 PM
                             [**2197-5-23**]  06:00 AM
                             [**2197-5-23**]  03:02 PM
                             [**2197-5-24**]  03:06 AM
   WBC
   18.3
   16.0
   12.5
   Hct
   25.0
   27.0
   28.3
   28.1
   Plt
   [**Telephone/Fax (3) 5511**]
   Cr
   3.2
   3.3
   3.3
   3.2
   TropT
   0.87
   1.39
   1.07
   1.09
   Glucose
   200
   67
   171
   133
   Other labs: PT / PTT / INR:14.2/24.3/1.2, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:52/65, Alk Phos / T Bili:173/0.6,
   Differential-Neuts:88.0 %, Lymph:8.0 %, Mono:3.8 %, Eos:0.1 %, LDH:344
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory distress:  Pulmonary edema with acute on chronic diastolic
   CHF and maybe aspiration PNA
                  -   Still has crackles on exam, can continue diuresis
                  -   PNA: Continue vanco/zosyn for aspiration PNA for 7
   days
   Delirium:  Still having hallucinations, but better controlled with
   haldol.
   hyponatremia: improved.
   HOTN:  Stable
   Chronic renal failure:  creatinine is stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-5-22**] 10:25 PM
   18 Gauge - [**2197-5-23**] 05:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2197-05-25 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC line was started
   - Discussion with Geriatric attending regarding medications and agree
   with plan to use Mirtazapine at night. Try to limit to max 15 mg qHS.
   - Diruesis with 40 mg IV Lasix x2.
   - Placed on BiPAP 5/5 for ABG 7.42/57/48 which improved to 7.43/49/65
   Review of Systems:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-5-24**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-25**] 04:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-5-24**] 08:27 AM
   Furosemide (Lasix) - [**2197-5-24**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-5-25**] 12:00 AM
   Flowsheet Data as of  [**2197-5-25**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 74 (74 - 113) bpm
   BP: 116/35(55) {90/35(50) - 127/64(139)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                    815 mL
                                                                    221 mL
   PO:
                                                                    225 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    610 mL
   Urine:
                                                                  3,510 mL
                                                                    610 mL
   Balance:
                                                                 -2,695 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (490 - 769) mL
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.43/49/65/33/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: nl S1, S2 irregular
   Respiratory / Chest: clear anteriorly, crackles posteriorly
   Abdomen: Soft, non tender
   Extremities: no edema
   Skin:  Warm, dry
   Neurologic: confused but interactive, MAE x4
   Labs / Radiology
   272 K/uL
   9.8 g/dL
   193 mg/dL
   3.0 mg/dL
   33 mEq/L
   3.7 mEq/L
   70 mg/dL
   100 mEq/L
   143 mEq/L
   29.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2197-5-22**]  11:32 PM
                             [**2197-5-23**]  06:00 AM
                             [**2197-5-23**]  03:02 PM
                             [**2197-5-24**]  03:06 AM
                             [**2197-5-24**]  03:52 PM
                             [**2197-5-24**]  07:49 PM
                             [**2197-5-24**]  08:42 PM
                             [**2197-5-24**]  11:40 PM
                             [**2197-5-25**]  02:17 AM
   WBC
   18.3
   16.0
   12.5
   11.1
   Hct
   25.0
   27.0
   28.3
   28.1
   29.9
   Plt
   [**Telephone/Fax (3) 5534**]72
   Cr
   3.2
   3.3
   3.3
   3.2
   2.8
   3.0
   TropT
   0.87
   1.39
   1.07
   1.09
   TCO2
   38
   36
   34
   Glucose
   200
   67
   171
   133
   222
   193
   Other labs: PT / PTT / INR:14.6/24.6/1.3, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:52/65, Alk Phos / T Bili:173/0.6,
   Differential-Neuts:86.5 %, Lymph:9.0 %, Mono:3.9 %, Eos:0.4 %, LDH:344
   IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 80 yo F with CAD s/p CABG and recent DES x2 in [**3-/2197**], CRI (baseline
   Cr 2.1), afib not on coumadin, multiple lung lesions on CT chest
   concerning for lung cancer, DM2, and demetia who was transferred from
   OSH for respiratory distress requiring NRB.
   1.  Hypoxic respiratory distress:  This is likely multifactorial
   including healthcare associated pneumonia given leukocytosis (though in
   setting of steroids) and cough and acute dCHF exacerabation (CXR c/w
   pulm edema, BNP > 70,000, esp. given IVF hydration for elevated Cr and
   low Na at OSH and 2-3 units of PRBCs, episodes of afib with RVR).  Pt
   also has sig. wheezing on exam but not hypercarbic on ABG.  Although
   does not carry a diagnosis of COPD, she has a sig. smoking history.
   Also concern for PE given lack of activity and question of cancer
   (lung, colon), however bilateral LENIs negative. Diuresis initially
   held secondary to hypotension in setting of patient receiving diltiazem
   20 mg IV on the floor for a fib with RVR. On [**5-23**] given lasix 40 mg IV
   x 2 with 1 L net negative overnight.
   - Supplemental O2 for goal O2 sats 88-94%, attempt to wean as tolerated
   - Continue diuresis with Lasix
   - Vanc/zosyn x7 days to cover healthcare associated pneumonia
   - Echo showed preserved global systolic function with mod pulmonary
   artery systolic hypertension
   - Standing nebulizers q4 for COPD exacerbation, start IV steroids if
   becomes more hypercarbic (will avoid clouding MS for now), also would
   consider decreasing BB in favor for CCB (responsive) but likely needs
   it given extensive cardiac history
   2.  Elevated cardiac enzymes:  NSTEMI v. demand ischemic from afib with
   RVR/acute CHF exacerbation.  Trending up at OSH (TropT<0.010, CK 134,
   CKMB 4.4, RI 3.3-->TropT 0.032) and here as well.  No acute ischemic
   changes on EKG.  No chest pain.  Pt had a cardiac cath in [**2197-3-13**]
   resulting in placement of a drug-eluting stent in the mid-LCX and
   proximal OM.  No evidence of re-instent thrombosis on EKG. Heparin gtt
   d/c
d [**5-23**] as elevated CE thought to be likely secondary to demand
   ischemia. Troponin peaked at 1.39 on [**5-23**], now trending down to 1.09.
   - full dose ASA, cont. plavix
   - cont. statin, BB
   3.  Acute MS changes:  Likely secondary to hypoxia, infection,
   hyponatremia, baseline dementia, and poor sleep.  Not hypercarbic on
   ABG.  Pt also has afib off anticoagulation.  No gross neurologic
   deficits on exam.  Less concern for possible metastatic cancer to brain
   given no acute intracranial abnormality on CT head from [**4-28**] though
   there was no follow-up MRI.  CT head did note areas of encephalomalacia
   consistent with prior infarct, which may give patient poor reserve with
   infection, electrolyte imbalances. Given home remeron and slept well
   overnight.
   - continue supplemental O2 to avoid hypoxia
   - Infectious work up shows BCx and UCx NTD
   - Continue remeron
   - haldol prn
   - ? MRI when stable
   4.  ARF:  Baseline Cr is 2.1.  OSH admission Cr was at 2.0.  Most
   likely prerenal given concomitent hyponatremia that responded to IVFs
   and component of poor forward flow for CHF exacerbation.  [**Month (only) 11**] also be
   ATN as was hypotensive, or AIN given abx exposure. Stable.
   - Urine eos negative.
   - renally dose meds, avoid nephrotoxins
   5.  Anemia:  HCT at OSH has been trending down 31.1->28.5->22.3.  Pt
   received 2-3 units of PRBCs, OSH records unclear.  [**Name2 (NI) 83**] obvious bleeding
   at admission.  Given 1 unit PRBCs on arrival to ICU for volume
   replacement [**5-23**]. Crit stable (28.1) today.
   - guaiac stools
   - typed and crossed
   6.  Hyponatremia:  Na has responded to IVFs at OSH.  Likely secondary
   to volume depletion.  No overt volume overload outside of pulm
   edema.
   - Na 139 today.
   7.  HTN/relative hypotension:  On admission to ICU relatively
   hypotensive in setting of diltiazem for a fib. Early sepsis/cardiogenic
   less likely.  BPs now stable.
   - cont. metoprolol for afib
   - hold outpatient amlodipine, hydralazine, imdur
   8.  H/o Strep bovis bacteremia: Bx of polyp showed adenoma, still some
   concern re: colon ca.
   - Outpt f/u in 1 month.
   9.  H/o spiculated lung lesion: Will need bronch bx (once on plavix for
   3 mos) and PET scan as outpt.
   ICU Care
   Nutrition: Diabetic/heart healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-5-22**] 10:25 PM
   18 Gauge - [**2197-5-23**] 05:11 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 747**] [**Last Name (NamePattern1) 5494**]
   Code status: Full code
   Disposition: ICU until improvement of respiratory status

2197-05-25 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo women with CAD, recent stent, p/w hypoxemia and delirium.
   Diuresed.  Has been better with better controlled delirium.  Was on
   bipap overnight, somnolent and desaturated.  Responded well to bipap.
   24 Hour Events:
 PICC LINE - START [**2197-5-24**] 10:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-5-24**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-25**] 04:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-5-24**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-5-25**] 08:51 AM
   Other medications:
   levoxyl
   lopressor
   atrovent/albuterol
   asa
   remeron 7.5 every night
   hep s/q
   folate
   protonix
   plavix
   lipitor
   celexa
   SSI
   Changes to medical and family history:
   has 100 pack year tobacco history
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-25**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 77 (67 - 101) bpm
   BP: 106/51(60) {90/31(49) - 127/59(79)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                    815 mL
                                                                    378 mL
   PO:
                                                                    225 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    755 mL
   Urine:
                                                                  3,510 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,695 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (490 - 769) mL
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: 7.43/49/65/33/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Wheezes :
   expiratory wheezes, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   9.8 g/dL
   272 K/uL
   193 mg/dL
   3.0 mg/dL
   33 mEq/L
   3.7 mEq/L
   70 mg/dL
   100 mEq/L
   143 mEq/L
   29.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2197-5-22**]  11:32 PM
                             [**2197-5-23**]  06:00 AM
                             [**2197-5-23**]  03:02 PM
                             [**2197-5-24**]  03:06 AM
                             [**2197-5-24**]  03:52 PM
                             [**2197-5-24**]  07:49 PM
                             [**2197-5-24**]  08:42 PM
                             [**2197-5-24**]  11:40 PM
                             [**2197-5-25**]  02:17 AM
   WBC
   18.3
   16.0
   12.5
   11.1
   Hct
   25.0
   27.0
   28.3
   28.1
   29.9
   Plt
   [**Telephone/Fax (3) 5534**]72
   Cr
   3.2
   3.3
   3.3
   3.2
   2.8
   3.0
   TropT
   0.87
   1.39
   1.07
   1.09
   TCO2
   38
   36
   34
   Glucose
   200
   67
   171
   133
   222
   193
   Other labs: PT / PTT / INR:14.6/24.6/1.3, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:52/65, Alk Phos / T Bili:173/0.6,
   Differential-Neuts:86.5 %, Lymph:9.0 %, Mono:3.9 %, Eos:0.4 %, LDH:344
   IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   respiratory distress/hypoxemia:  Is wheezing today , has 100 pack year
   tobacco history, will start steroids for COPD, continue nebs.
   antibiotics for PNA.  Diuresed aggressively for pulmonary edema
   acute on chronic diastolic CHF
   PNA
   COPD
   Afib
   drowsiness:  will hold remeron
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-5-23**] 05:11 AM
   PICC Line - [**2197-5-24**] 10:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-05-26 07:22:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - ABG 7.42/60/55 yesterday afternoon so BiPAP not given overnight
   - Given additional 40 mg lasix IV, neg 700 before MN
   - Repeat sputum sample was sent in AM and gram stain consistent with
   oropharyngeal flora
   - Sedation was switched from fentanyl and midaz to propofol at low rate
   ROS:
   Feeling well without breathing difficulty. Denies fever.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-5-24**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-26**] 04:00 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2197-5-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-5-26**] 12:00 AM
   Flowsheet Data as of  [**2197-5-26**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 83 (70 - 102) bpm
   BP: 142/87(102) {99/37(55) - 151/106(111)} mmHg
   RR: 17 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                    980 mL
                                                                    123 mL
   PO:
                                                                    590 mL
   TF:
   IVF:
                                                                    390 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                  1,000 mL
   Urine:
                                                                  1,755 mL
                                                                  1,000 mL
   Balance:
                                                                   -775 mL
                                                                   -877 mL
   Respiratory support
   O2 Delivery Device: 40% by face tent
   SpO2: 97%
   ABG: 7.46/52/57
   Physical Examination
   General Appearance: NAD, sitting up in chair
   Eyes / Conjunctiva: PERRL
   Lymphatic: No LAD
   Cardiovascular: Irregular, nl S1, nl S2
   Respiratory / Chest: Clear anteriorly, crackles posteriorly at bases
   Abdomen: Soft, non tender
   Extremities: no edema
   Skin:  Warm, dry
   Neurologic: Not oriented; however, she is conversant
   Labs / Radiology
   269 K/uL
   10.1 g/dL
   201 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   68 mg/dL
   101 mEq/L
   144 mEq/L
   31.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2197-5-24**]  03:06 AM
                             [**2197-5-24**]  03:52 PM
                             [**2197-5-24**]  07:49 PM
                             [**2197-5-24**]  08:42 PM
                             [**2197-5-24**]  11:40 PM
                             [**2197-5-25**]  02:17 AM
                             [**2197-5-25**]  04:20 PM
                             [**2197-5-25**]  04:33 PM
                             [**2197-5-26**]  03:05 AM
                             [**2197-5-26**]  05:15 AM
   WBC
   12.5
   11.1
   11.4
   Hct
   28.1
   29.9
   31.2
   Plt
   [**Telephone/Fax (3) 5571**]
   Cr
   3.2
   2.8
   3.0
   3.0
   2.8
   TropT
   1.09
   TCO2
   38
   36
   34
   40
   38
   Glucose
   133
   222
   193
   191
   201
   Other labs: PT / PTT / INR:14.3/30.4/1.2, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:42/20, Alk Phos / T Bili:134/0.8,
   Differential-Neuts:86.5 %, Lymph:9.0 %, Mono:3.9 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, LDH:253 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   MICRO:
   [**2197-5-23**]  URINE URINE CULTURE-FINAL No Growth
   [**2197-5-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING No Growth
   [**2197-5-22**]  MRSA SCREEN MRSA SCREEN-FINAL Negative
   [**2197-5-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING No Growth
   Assessment and Plan
   80 yo F with CAD s/p CABG and recent DES x2 in [**3-/2197**], CRI (baseline Cr
   2.1), afib not on coumadin, multiple lung lesions on CT chest
   concerning for lung cancer, DM2, and dementia who was transferred from
   OSH for respiratory distress requiring non-rebreather.
   #  Hypoxia:
   Patient came from outside hospital with question of pneumonia and is
   being treated with vancomycin and zosyn for this indication. Also
   presented with BNP >[**Numeric Identifier **] and clinic exam and imaging consistent with
   acute heart failure. ECHO from [**5-23**] was not convincing for systolic
   dysfunction; however, ongoing evidence of pulmonary vasculature
   overload with pulm artery hypertension. Despite exceptional diuresis
   and antibiotics, hypoxia has not significantly improved since admission
   to the ICU. Overnight on [**5-24**] needed BiPAP for hypercarbia and hypoxia.
   Although does not carry a diagnosis of COPD, she has a sig. smoking
   history (reported as 100 pack-years in recent discharge summary).  Will
   consider that the lack of improvement could be attributed to an
   unrecognized COPD exacerbation. Initiated steroids yesterday with mild
   improvement in oxygen sats overnight. Question of aspiration yesterday;
   however, tolerate regular diet with intact mental status, so this does
   not seem to be as concerning unless aspiration is silent.
   - Supplemental O2 for goal O2 sats 88-94%, attempt to liberate as
   tolerated
   - Continue diuresis with furosemide with goal of negative one liter
   fluid balance
   - Vanc/zosyn x 7 days to cover healthcare associated pneumonia (ending
   on evening of [**5-28**])
   - Vancomycin being given based on random levels. Was 15.3 this AM and
   will be remeasured tomorrow morning.
   - Continue nebulizers PRN and standing
   - Continue prednisone burst 60 mg daily for 5 days to treat for COPD
   exacerbation (ending on [**5-29**])
   #  Elevated cardiac enzymes:
   Troponin peak to 1.39 and trended down on AM labs on [**5-24**]. ECHO on [**5-23**]
   could not rule out a focal left ventricle wall motion abnormality. Was
   originally on heparin drip for presumed NSTEMI; however, this has since
   been discontinued. No chest pain complaints in last three days.
   - Monitor for chest pain or telemetry changes.
   #  Acute MS changes:
   Patient was initially acutely agitated upon presentation to the ICU and
   required haldol with last dose given on night following admission.
   Received BiPAP on night of [**5-24**] indicated for mild hypercarbia and
   hypoxia at night. Had been lethargic yesterday morning and was going to
   hold mirtazapine; however, patient became agitated at night and
   mirtazapine was given. Patient calm and conversant this morning after a
   quiet night.
   - Restart mirtazapine 7.5 mg QHS
   - Follow-up pending blood cultures
   #  [**Last Name (un) 2406**] on chronic renal failure:
   Baseline Cr is 2.1.  OSH admission Cr was at 2.0.  Cr was 2.9 upon
   admission here and has been stable. Was 2.8 this AM. BUN has been
   trending down and was 68 this AM.
   - Continue to trend with diuresis
   - Vancomycin being given based on random levels. Was 15.3 this AM and
   will be remeasured tomorrow morning.
   #  Anemia:
   Was transfused at OSH prior to admission here; however, HCT has been
   stable without transfusion need while hospitalized here. Was 29.9 this
   AM. Stools have been guaiac negative.
   - Continue to trend HCT daily.
   #  HTN/relative hypotension:
   On admission to ICU relatively hypotensive in setting of diltiazem for
   a fib. Early sepsis/cardiogenic less likely.  BPs now stable.
   - Cont. metoprolol for afib
   - Continue to hold outpatient amlodipine, hydralazine, imdur
   #  H/o Strep bovis bacteremia:
   Bx of polyp showed adenoma, still some concern re: colon ca.
   - Outpt f/u in 1 month.
   #  H/o spiculated lung lesion:
   Will need bronch bx (once on plavix for 3 mos) and PET scan as outpt.
   ICU Care
   Nutrition: Diabetic/heart healthy diet
   Glycemic Control:  Sliding scale insulin
   Lines:
   PICC and peripherals
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 747**] [**Last Name (NamePattern1) 5494**]
   Code status: FULL
   Disposition: ICU until improvement of respiratory status
   ------ Protected Section ------
   In the 24 hour event section the following should be omitted as it was
   entered on wrong patient:
- Repeat sputum sample was sent in AM and gram stain consistent with
   oropharyngeal flora
   and
- Sedation was switched from fentanyl and midaz to propofol at low
   rate
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3127**], MD
   on:[**2197-5-26**] 12:14 ------

2197-05-26 10:51:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo women p/w hypoxemia and delirium.  Treated for COPD exacerbation,
   pulm edema, and PNA.  Got agitated overnight and received mirtazipine
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-5-24**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2197-5-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-5-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-5-26**] 12:00 AM
   Other medications:
   levoxyl
   lopressor
   atrovent
   asa
   folate
   protonix
   plavix
   lipitor
   celexa
   SSI
   glargine
   prednisone 60mg
   remeron
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2197-5-26**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 76 (76 - 102) bpm
   BP: 134/55(76) {99/37(59) - 151/106(111)} mmHg
   RR: 18 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                    980 mL
                                                                    706 mL
   PO:
                                                                    590 mL
                                                                    550 mL
   TF:
   IVF:
                                                                    390 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                  1,440 mL
   Urine:
                                                                  1,755 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -734 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: 7.46/52/57/34/10
   PaO2 / FiO2: 57
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 1, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.1 g/dL
   269 K/uL
   201 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   68 mg/dL
   101 mEq/L
   144 mEq/L
   31.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2197-5-24**]  03:06 AM
                             [**2197-5-24**]  03:52 PM
                             [**2197-5-24**]  07:49 PM
                             [**2197-5-24**]  08:42 PM
                             [**2197-5-24**]  11:40 PM
                             [**2197-5-25**]  02:17 AM
                             [**2197-5-25**]  04:20 PM
                             [**2197-5-25**]  04:33 PM
                             [**2197-5-26**]  03:05 AM
                             [**2197-5-26**]  05:15 AM
   WBC
   12.5
   11.1
   11.4
   Hct
   28.1
   29.9
   31.2
   Plt
   [**Telephone/Fax (3) 5571**]
   Cr
   3.2
   2.8
   3.0
   3.0
   2.8
   TropT
   1.09
   TCO2
   38
   36
   34
   40
   38
   Glucose
   133
   222
   193
   191
   201
   Other labs: PT / PTT / INR:14.3/30.4/1.2, CK / CKMB /
   Troponin-T:261/9/1.09, ALT / AST:42/20, Alk Phos / T Bili:134/0.8,
   Differential-Neuts:86.5 %, Lymph:9.0 %, Mono:3.9 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, LDH:253 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Respiratory distress:  Much improved:
   Pneumonia:  Continue Vanco/zosyn for total 7 days until [**5-28**]
   Pulmonary edema: acute on chronic diastolic HF, continue diuresis
   COPD:  short course of steroids for wheezing
   Delirum:  well controlled with mirtazipine
   ICU Care
   Nutrition:
   Comments: eating well
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-5-23**] 05:11 AM
   PICC Line - [**2197-5-24**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes